US04734126
35.3 g (0.120 mol) of 2-(biphenyl-4-yloxymethyl)-2-(3,3-dimethylprop-1-en-3-yl)-oxirane, dissolved in 80 ml of n-propanol, were added to a boiling solution of 1 g (0.012 mol) of sodium propylate and 9.1 g (0.132 mol) of 1,2,4-triazole in 50 ml of n-propanol. After the solution had been boiled under reflux for two days, it was evaporated down under reduced pressure, the oily residue was taken up in 200 ml of ethyl acetate, and the solution was washed with three times 50 ml of water. After the organic phase had been dried over anhydrous sodium sulphate, the solution was concentrated under reduced pressure. After the residue had been triturated with 150 ml of ethyl acetate, 6.6 g (15.1% of theory) of 4-(biphenyl-4-yloxymethyl)-3,3-dimethyl-4-hydroxy-5-(1,2,4-triazol-4-yl)-pent-1-ene were obtained as colorless crystals of melting point 171° to 173° C. The oil (37.1 g) which remained after the filtrate had been evaporated down was taken up in 200 ml of acetone, and a solution of 34.6 g of naphthalene-1,5-disulphonic acid in 100 ml of acetone was added. The salt which crystallized out was filtered off under suction, washed with acetone, and taken up in a mixture of 250 ml of water and 250 ml of dichloromethane. The solution was rendered alkaline by stirring in 10% strength sodium carbonate solution. After the organic phase had been concentrated, 24 g of an oil were obtained, which was dissolved in ethyl acetate and the solution then filtered over silica gel. After the filtrate had been concentrated, 17.8 g (40.8% of theory) of 4-(biphenyl-4-yloxymethyl)-3,3-dimethyl-4-hydroxy-5-(1,2,4-triazol-1-yl)-pent-1-ene were obtained in the form of colorless crystals of melting point 85° to 87° C.

reactant | 2-(biphenyl-4-yloxymethyl)-2-(3,3-dimethylprop-1-en-3-yl)-oxirane | 0.120 mol, 35.3 g | C1(=CC=C(C=C1)OCC1(OC1)C(C=C)(C)C)C1=CC=CC=C1 | C20H22O2
reactant | sodium | 0.012 mol, 1 g | [Na] | Na
reactant | 1,2,4-triazole | 0.132 mol, 9.1 g | N1N=CN=C1 | C2H3N3
solvent | n-propanol | 80 ml | C(CC)O | C3H8O
solvent | n-propanol | 50 ml | C(CC)O | C3H8O
product | 4-(biphenyl-4-yloxymethyl)-3,3-dimethyl-4-hydroxy-5-(1,2,4-triazol-4-yl)-pent-1-ene | 6.6 g, 15.1% | C1(=CC=C(C=C1)OCC(C(C=C)(C)C)(CN1C=NN=C1)O)C1=CC=CC=C1 | C22H25N3O2
